US04486444
4-[(2-Sulfamoyl-5-thienyl)carbonyl]phenyl 2,2-Dimethylpropionate
A solution of 5-(4-hydroxybenzoyl)thiophene-2-sulfonamide (0.01459 mole) in acetone (90 ml) at 0° C. is treated with triethylamine (0.0160 mole) and 4-dimethylaminopyridine (75 mg). Trimethylacetic anhydride (0.0160 mole) is added, dropwise, during 20 minutes at 0° C. The cooling bath is removed and stirring is continued for 1 hour. The acetone is removed in vacuo and the residue is dissolved in ethyl acetate, washed with water and saturated sodium chloride solution and dried over sodium sulfate. The ethyl acetate is evaporated in vacuo to give the title compound.

reactant | 5-(4-hydroxybenzoyl)thiophene-2-sulfonamide | 0.01459 mole | OC1=CC=C(C(=O)C2=CC=C(S2)S(=O)(=O)N)C=C1 | C11H9NO4S2
reactant | triethylamine | 0.0160 mole | C(C)N(CC)CC | C6H15N
reactant | Trimethylacetic anhydride | 0.0160 mole | CC(C(=O)OC(C(C)(C)C)=O)(C)C | C10H18O3
solvent | acetone | 90 ml | CC(=O)C | C3H6O
catalyst | 4-dimethylaminopyridine | 75 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | 4-[(2-Sulfamoyl-5-thienyl)carbonyl]phenyl 2,2-Dimethylpropionate | CC(C(=O)OC1=CC=C(C=C1)C(=O)C1=CC=C(S1)S(N)(=O)=O)(C)C | C16H17NO5S2
